US04891298
In a 500 ml 3-neck flask equipped with magnetic stirrer and reflux condenser with nitrogen inlet, 66 ml of trifluoroacetic acid and 88 ml of trifluoroacetic anhydride were mixed together cautiously. The mixture was stirred under nitrogen and 54.6 g (0.21 mole) of 97% triphenylmethanol was added in increments over a 30 minute period giving an intense yellow-green solution. Heat was liberated. The reaction mixture was refluxed for one hour, cooled and 22.0 g (0.105 mole) of 3-methyl-1,2,3,4-tetrahydrophenanthrone as prepared above was added all at once, followed by refluxing under nitrogen for 21 hours. The amber mixture was cooled in an ice water bath and filtered to remove the solids. The filtrate was poured on crushed ice and the light tan precipitate was collected, washed with water and air-dried overnight. The solids were extracted with several portions of hexanes at room temperature to take up the 4-phenanthrol trifluoroacetate. The hexanes were concentrated to 400 ml, cooled in a freezer, then filtered. The filtrate was concentrated under vacuum to an oil. 40 ml of degassed 10% aqueous sodium hydroxide (containing a trace amount of sodium hydrosulfite) was added to the oil, followed by 110 ml of methanol. Nitrogen was passed through the mixture with stirring for one hour at room temperature. The mixture was filtered, and while cooling in an ice water bath, the filtrate was acidified with dilute hydrochloric acid to give a light tan precipitate. The precipitate was collected by filtration, washed with water and dried under vacuum to give 17.9 g (79.13% by weight) of 3-methyl-4-phenanthrol as a tan solid. M/e 208; M.P. 88°-92° C.; λmax 275 (16,200) methanol.

reactant | trifluoroacetic acid | 66 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic anhydride | 88 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triphenylmethanol | 0.21 mole, 54.6 g | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
reactant | 3-methyl-1,2,3,4-tetrahydrophenanthrone | 0.105 mole, 22.0 g | CC1CCC=2CC(C3=CC=CC=C3C2C1)=O | C15H16O
product | 3-methyl-4-phenanthrol | 17.9 g | CC=1C=CC=2C=CC3=CC=CC=C3C2C1O | C15H12O
